US06562828B1
Synthesis of 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Hydrochloride
4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid (7.55 g) was suspended in water (135 ml) and 1N hydrochloric acid (20 ml) was added. The mixture was heated to 60° C. and thereto was successively added dropwise 1N aqueous sodium hydroxide solution (2.9 ml) and 1N hydrochloric acid (1 ml). The mixture was stood at room temperature for 12 hours and the resultant crystals were collected by filtration, washed with water and dried to give the title compound (4.7 g).

reactant | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic acid | 7.55 g | C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)O | C22H27N5O3
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
reactant | sodium hydroxide | 1N, 2.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
solvent | water | 135 ml | O | H2O
product | 4-(2-Amidino-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl)-1-(pyridin-4-yl)piperidine-4-carboxylic Acid Hydrochloride | 4.7 g | Cl.C(N)(=N)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC=NC=C1)C(=O)O | InChI=1S/C22H27N5O3.ClH/c23-21(24)27-10-5-16-1-2-19(13-17(16)14-27)30-15-22(20(28)29)6-11-26(12-7-22)18-3-8-25-9-4-18;/h1-4,8-9,13H,5-7,10-12,14-15H2,(H3,23,24)(H,28,29);1H
